US07807671B2
Preparation of 1-(7-(5-(hydroxymethyl)-1H-pyrazol-3-yl)-4-methoxy-1H-pyrrolo[2,3-c]pyridin-3-yl)-2-(4-(1-phenyl-1H-tetrazol-5-yl)piperazin-1-yl)ethane-1,2-dione (Compound B-22)
In a sealable, flask a mixture of 1-(7-chloro-4-methoxy-1H-pyrrolo[2,3-c]pyridin-3-yl)-2-(4-(1-phenyl-1H-tetrazol-5-yl)piperazin-1-yl)ethane-1,2-dione (0.150 g, 0.321 mmol) in 1,4-dioxane (5 mL) was prepared. (3-(tributylstannyl)-1H-pyrazol-5-yl)methanol (0.137 g, 0.353 mmol) was added followed by tetrakis(triphenylphosphine)palladium (0) (0.150 g, 0.130 mmol). The mixture was flushed with N2, and flask was sealed. The mixture was then heated to 120° C. for 14 h. After cooling to rt, the mixture was diluted with DMF, and filtered through a plug of celite to remove any solids. The liquid was concentrated under reduced pressure, and the residue was dissolved in DMF. The DMF solution was purified by prep HPLC to give 0.037 g of an off-white solid as the 1-(7-(5-(hydroxymethyl)-1H-pyrazol-3-yl)-4-methoxy-1H-pyrrolo[2,3-c]pyridin-3-yl)-2-(4-(1-phenyl-1H-tetrazol-5-yl)piperazin-1-yl)ethane-1,2-dione. LCMS: m/e 529.2 (M+H)+, ret time 1.78 min (method 2). 1H NMR (500 MHz, MeOD) δ ppm 8.65 (s, 1 H) 7.98 (s, 1 H) 7.56-7.80 (m, 5 H) 7.16 (s, 1 H) 4.81 (s, 2 H) 4.15 (s, 3 H) 3.83-3.87 (m, 2 H) 3.63-3.68 (m, 2 H) 3.40-3.44 (m, 2 H) 3.34-3.39 (m, 2 H).

reactant | 1-(7-chloro-4-methoxy-1H-pyrrolo[2,3-c]pyridin-3-yl)-2-(4-(1-phenyl-1H-tetrazol-5-yl)piperazin-1-yl)ethane-1,2-dione | 0.321 mmol, 0.150 g | ClC=1N=CC(=C2C1NC=C2C(C(=O)N2CCN(CC2)C2=NN=NN2C2=CC=CC=C2)=O)OC | C21H19ClN8O3
reactant | (3-(tributylstannyl)-1H-pyrazol-5-yl)methanol | 0.353 mmol, 0.137 g | C(CCC)[Sn](C1=NNC(=C1)CO)(CCCC)CCCC
solvent | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium | 0.130 mmol, 0.150 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1-(7-(5-(hydroxymethyl)-1H-pyrazol-3-yl)-4-methoxy-1H-pyrrolo[2,3-c]pyridin-3-yl)-2-(4-(1-phenyl-1H-tetrazol-5-yl)piperazin-1-yl)ethane-1,2-dione | 0.037 g | OCC1=CC(=NN1)C=1N=CC(=C2C1NC=C2C(C(=O)N2CCN(CC2)C2=NN=NN2C2=CC=CC=C2)=O)OC | C25H24N10O4
